US05095112
Ethyl 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-ethyl-1-piperazinyl)-3-quinolinecarboxylate
100 parts by weight of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-ethyl-1-piperazinyl)-3-quinoline-carboxylic acid were dissolved in 300 parts by volume of anhydrous chloroform, and 33.2 parts by weight of triethylamine were added. A solution of 37.7 parts by weight of ethyl chloroformate in 100 parts by volume of anhydrous chloroform was added dropwise to this mixture at -20° C. in the course of 30 minutes, and the mixture was stirred for a further 30 minutes at -20° C. and was then stirred overnight at room temperature. After extraction with twice 300 parts by volume of water, 400 parts by volume of water were added to the organic phase. The pH was adjusted to 5 with glacial acetic acid (consumption approximately 15 parts by volume), and the chloroform was removed by distillation under a water pump vacuum. The pH of the aqueous solution was adjusted to 8.9 with half-concentrated potassium hydroxide solution (consumption approximately 70 parts by volume), and the mixture was stirred overnight at room temperature. The product was filtered off with suction, washed with 500 parts by volume of water and dried overnight at 70° C. in a vacuum drying cabinet.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-ethyl-1-piperazinyl)-3-quinoline-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC)F)=O)C(=O)O | C19H22FN3O3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Ethyl 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-ethyl-1-piperazinyl)-3-quinolinecarboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC)F)=O)C(=O)OCC | C21H26FN3O3
